US08748613B2
To a solution of methyl 2-bromo-2-(4-methoxyphenyl)acetate (2.5 g, 9.65 mmol) in THF (50 ml), was added piperidine (1.64 g, 19.3 mmol) and the mixture reacted for 2 hours at room temperature. The solvent was evaporated and the resulting crude was portioned between water and EtOAc. The aqueous phase was extracted with EtOAc, the organic phases were combined, dried over Na2SO4, filtered and evaporated to dryness. The crude was purified by flash chromatography (petroleum ether/EtOAc=85/15) to obtain (methyl 2-(4-methoxyphenyl)-2-(piperidin-1-yl)acetate (1.81 g, 71.4% yield).

reactant | methyl 2-bromo-2-(4-methoxyphenyl)acetate | 9.65 mmol, 2.5 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC | C10H11BrO3
reactant | piperidine | 19.3 mmol, 1.64 g | N1CCCCC1 | C5H11N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | methyl 2-(4-methoxyphenyl)-2-(piperidin-1-yl)acetate | 1.81 g, 71.4% yield | COC1=CC=C(C=C1)C(C(=O)OC)N1CCCCC1 | C15H21NO3
